US09102614B2
Preparation of ethyl 2-hydroxy-2-(3-methyl-1-(trifluoromethylsulfonyl-oxy)naphthalen-2-yl)acetate:
A solution of ethyl 2-tert-butoxy-2-(3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate (6.0 grams, ˜13 mmol, semipure) in DCM (60 mL) was treated with TFA (6.0 mL) at 23° C. The reaction was diluted with H2O (60 mL) and the organic phase collected. The aqueous layer was extracted with DCM (2×30 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated. The residue (5.5 grams) was used in the next reaction without further purification. 1H NMR (400 MHz, CDCl3): δ 8.08-8.06 (m, 1H), 7.81-7.78 (m, 1H), 7.69 (s, 1H), 7.62-7.55 (m, 2H), 5.81 (app. s, 1H), 4.35-4.21 (m, 2H), 3.26 (app. s, broad, 1H), 2.50 (s, 3H), 1.21 (t, J=7.0 Hz, 3H).

reactant | ethyl 2-tert-butoxy-2-(3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | ˜13 mmol, 6.0 grams | C(C)(C)(C)OC(C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)OS(=O)(=O)C(F)(F)F | C20H23F3O6S
reactant | TFA | 6.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 60 mL | O | H2O
product | ethyl 2-hydroxy-2-(3-methyl-1-(trifluoromethylsulfonyl-oxy)naphthalen-2-yl)acetate | OC(C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)OS(=O)(=O)C(F)(F)F | C16H15F3O6S
